US07465815B2
3-(3-Bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran
Using 3-(3-bromophenyl)-4,6,7-trimethyl-1-benzofuran obtained in Reference Example 186, the title compound was synthesized in the same manner as in Reference Example 199. Yield 82%. Melting point: 73-74° C. (ethyl acetate-hexane).

reactant | 3-(3-bromophenyl)-4,6,7-trimethyl-1-benzofuran | BrC=1C=C(C=CC1)C1=COC2=C1C(=CC(=C2C)C)C | C17H15BrO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 3-(3-Bromophenyl)-4,6,7-trimethyl-2,3-dihydro-1-benzofuran | Yield 82% | BrC=1C=C(C=CC1)C1COC2=C1C(=CC(=C2C)C)C | C17H17BrO
